US04747875
Synthesis of 3-(4-dimethylamino-2-n-pentyloxyphenyl)-3-(1-ethyl-2-methylindol-3-yl)-4-azaphthalide
Into 75 ml of acetic anhydride, 9.2 g of (1-ethyl-2-methylindol-3-yl) (3-carboxypyridin-2-yl) ketone and 7050 g of 1-n-pentyloxy-3-dimethylaminobenzene were added, and the resultant mixture was stirred for 4 hours at 60° to 65° C. After cooling the reaction mixture to room temperature, the cooled reaction mixture was poured into 500 ml of ice water and the resultant mixture was treated with toluene and methanol by the same manner as in Synthetic Example 1. As a result, 11.9 g of the objective compound were obtained as pale blue crystals (melting point: 169° to 171° C.). The elementary analytical data of the product were as follows.

reactant | acetic anhydride | 75 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (1-ethyl-2-methylindol-3-yl) (3-carboxypyridin-2-yl) ketone | 9.2 g | C(=O)(O)C=1C(=NC=CC1)C(=O)C1=C(N(C2=CC=CC=C12)CC)C | C18H16N2O3
reactant | 1-n-pentyloxy-3-dimethylaminobenzene | 7050 g | C(CCCC)OC1=CC(=CC=C1)N(C)C | C13H21NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 3-(4-dimethylamino-2-n-pentyloxyphenyl)-3-(1-ethyl-2-methylindol-3-yl)-4-azaphthalide | 11.9 g | CN(C1=CC(=C(C=C1)C1(OC(=O)C2=CC=CN=C12)C1=C(N(C2=CC=CC=C12)CC)C)OCCCCC)C | C31H35N3O3
